US08957203B2
To a mixture of (2R,6S,7R,13aS,14aR,16aS,Z)-methyl 6-((tert-butoxycarbonyl)amino)-2-hydroxy-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylate (152 mg, 0.3 mmol),1-fluoro-4-methoxyisoquinoline (128 mg, 0.720 mmol), and t-BuOK (168 mg, 1.500 mmol) was added DMSO (5 mL) and then sonicated for 15 min. The resulting solution was stirred for 4 h. The reaction was quenched with water, acidified with 6 N HCl, extracted with EtOAc, washed with brine, dried over MgSO4. After concentration, the residue (2R,6S,7R,13aS,14aR,16aS,Z)-6-((tert-butoxycarbonyl)amino)-2-((4-methoxyisoquinolin-1-yl)oxy)-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylic acid was obtained as a solid (150 mg) that will be used as it is. LC/MS: MS m/z (M+H)+ 651.23.

reactant | (2R,6S,7R,13aS,14aR,16aS,Z)-methyl 6-((tert-butoxycarbonyl)amino)-2-hydroxy-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylate | 0.3 mmol, 152 mg | C(C)(C)(C)OC(=O)N[C@H]1[C@@H](CC(CC\C=C/[C@H]2[C@](NC([C@H]3N(C1=O)C[C@@H](C3)O)=O)(C2)C(=O)OC)C)C | C26H41N3O7
reactant | 1-fluoro-4-methoxyisoquinoline | 0.720 mmol, 128 mg | FC1=NC=C(C2=CC=CC=C12)OC | C10H8FNO
reactant | t-BuOK | 1.500 mmol, 168 mg | CC(C)(C)[O-].[K+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | (2R,6S,7R,13aS,14aR,16aS,Z)-6-((tert-butoxycarbonyl)amino)-2-((4-methoxyisoquinolin-1-yl)oxy)-7,9-dimethyl-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylic acid | C(C)(C)(C)OC(=O)N[C@H]1[C@@H](CC(CC\C=C/[C@H]2[C@](NC([C@H]3N(C1=O)C[C@@H](C3)OC3=NC=C(C1=CC=CC=C31)OC)=O)(C2)C(=O)O)C)C | C35H46N4O8
